US04410724
The same procedure as in Example 1 given in Japanese Pat. No. 374/1980 was employed using 3.10 g of 2,6-dichloroaniline, 0.10 g of cuprous bromide, 2.80 g of potassium carbonate and 10 ml of dimethyl sulfoxide except that potassium o-bromophenylacetate was replaced with 4.17 g of potassium o-chlorophenylacetate. o-(2,6-Dichloroanilino)phenylacetic acid was not obtained at all.

reactant | 2,6-dichloroaniline | 3.10 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | potassium carbonate | 2.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium o-bromophenylacetate | BrC1=C(C=CC=C1)CC(=O)[O-].[K+]
reactant | potassium o-chlorophenylacetate | 4.17 g | ClC1=C(C=CC=C1)CC(=O)[O-].[K+]
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | o-(2,6-Dichloroanilino)phenylacetic acid | ClC1=C(NC2=C(C=CC=C2)CC(=O)O)C(=CC=C1)Cl | C14H11Cl2NO2
